US09056874B2
(±)-2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-(methylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile as described in Example 105-A, methylamine in MeOH was used instead of ammonia in ethanol. MS (ESI+) m/z 566.79 (M+H).

reactant | (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C34H37F3N4O4SSi
reactant | (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C34H37F3N4O4SSi
reactant | methylamine | CN | CH5N
solvent | MeOH | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | (±)-2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoro-1-(methylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(NC)C1=NC2=C(N1)C=CC(=C2)C#N | C29H26F3N5O2S
